US08217069B2
2-Carboxy-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-7,9-dihydro-8H-purin-8-one
To 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-cyano-7,9-dihydro-8H-purin-8-one (0.12 g) was added hydrochloric acid (20% ethanol solution, 3 mL), and the mixture was stirred at room temperature overnight. To the reaction mixture was added water, and the precipitated crystals were collected by filtration. The crystals were washed with water and diethyl ether, and dried under reduced pressure. The obtained crystals were purified by column chromatography on silica gel (eluent: ethyl acetate) to give 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-ethoxycarbonyl-7,9-dihydro-8H-purin-8-one (93 mg). To the obtained 9-[2-chloro-5-(2,3-difluoro-6-methoxy-benzyloxy)-4-methoxyphenyl]-2-ethoxycarbonyl-7,9-dihydro-8H-purin-8-one (50 mg) were added tetrahydrofuran (4 mL), methanol (2 mL), water (2 mL) and lithium hydroxide monohydrate (40 mg), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was acidified by adding 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and the solvent was removed under reduced pressure. The residual solids were suspended in diethyl ether, and collected by filtration. The collected solids were washed with water and diethyl ether, and dried under reduced pressure to give the title compound (22 mg).

reactant | 9-[2-chloro-5-(2,3-difluoro-6-methoxy-benzyloxy)-4-methoxyphenyl]-2-ethoxycarbonyl-7,9-dihydro-8H-purin-8-one | 50 mg | ClC1=C(C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC=C2NC1=O)C(=O)OCC | C23H19ClF2N4O6
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 40 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | water | 2 mL | O | H2O
solvent | methanol | 2 mL | CO | CH4O
product | 2-Carboxy-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-7,9-dihydro-8H-purin-8-one | 22 mg | C(=O)(O)C1=NC=C2NC(N(C2=N1)C1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OC)Cl)=O | C21H15ClF2N4O6
